US07851473B2
(2) N-(4-Methoxy-1,2-benzisoxazol-3-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A mixture of 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (492 mg, 2.00 mmol), bis(2,2,2-trichloroethyl) (4-methoxy-1,2-benzisoxazol-3-yl)imidodicarbonate (515 mg, 1.00 mmol), diisopropylethylamine (0.350 ml, 2.00 mmol) and dimethyl sulfoxide (10 ml) was stirred at 70° C. for 5 hours. The reaction mixture was poured to water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was recrystallized from ethyl acetate to yield 325 mg (74.5%) of the desired product.

reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 2.00 mmol, 492 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | bis(2,2,2-trichloroethyl) (4-methoxy-1,2-benzisoxazol-3-yl)imidodicarbonate | 1.00 mmol, 515 mg | COC1=CC=CC2=C1C(=NO2)N(C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC(Cl)(Cl)Cl | C14H10Cl6N2O6
reactant | diisopropylethylamine | 2.00 mmol, 0.350 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-(4-Methoxy-1,2-benzisoxazol-3-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 325 mg, 74.5% | COC1=CC=CC2=C1C(=NO2)NC(=O)N2CCN(CC2)C2=NC(=NS2)C2=CC=CC=C2 | C21H20N6O3S
